* GENERATED by circuits/preamp/gain_block.py - DO NOT HAND-EDIT.
* Ports: IN OUT FB RG VPLUS VMINUS   (node 0 = signal ground)
* RG: gain-relay contact node. Tie to 0 for +10 dB; leave it on a
* stray capacitance for 0 dB - that is what an open contact is.
* Device models are PLACEHOLDERS - see placeholder_devices.lib.
.subckt GAINBLOCK IN OUT FB RG VPLUS VMINUS
C104 NREF VMINUS 100u
C105 NREF VMINUS 100n
C117 NCASC 0 47u
C126 NX NHI 470p
C139 OUT FB 22p
C141 VPLUS 0 100n
C142 VMINUS 0 100n
C143 VPLUS 0 100u
C144 VMINUS 0 100u
D102 NREF NREFM D1N4148
D103 NREFM VMINUS D1N4148
JQ110 D1N G1 S1 LSK489X
JQ111 D2N G2 S2 LSK489X
Q106 SRC NREF NTE NSS2N5551
Q118 NHI NCASC D1N NSS2N5551
Q119 NMIRI NCASC D2N NSS2N5551
Q122 NMIRI NMIRI NME1 PTHAT320
Q123 NHI NMIRI NME2 PTHAT320
Q124 NX NHI NVE PSS2N5401
Q127 NY NREF NVLE NSS2N5551
Q129 NX NBB NY NSS2N5551
Q134 VPLUS NBN NEN NMJE15032
Q135 VMINUS NBP NEP PMJE15033
R101 0 NREF 6.81k
R107 NTE VMINUS 137
R108 IN G1 100
R109 FB G2 100
R112 S1 SRC 100
R113 S2 SRC 100
R114 IN 0 1MEG
R115 VPLUS NCASC 4.99k
R116 NCASC 0 10.0k
R120 VPLUS NME1 47
R121 VPLUS NME2 47
R125 VPLUS NVE 91
R128 NVLE VMINUS 91
R130 NX NBB 1.69k
R131 NBB NY 1.00k
R132 NX NBN 10
R133 NY NBP 10
R136 NEN OUT 22
R137 NEP OUT 22
R138 OUT FB 1.50k
R140 FB RG 698
.ends GAINBLOCK
