* GENERATED by circuits/preamp/gain_block.py - DO NOT HAND-EDIT.
* Ports: IN OUT FB RG VPLUS VMINUS   (node 0 = signal ground)
* RG: gain-relay contact node. Tie to 0 for +10 dB; leave it on a
* stray capacitance for 0 dB - that is what an open contact is.
* Device models are PLACEHOLDERS - see placeholder_devices.lib.
.subckt GAINBLOCK IN OUT FB RG VPLUS VMINUS
C104 NREF VMINUS 100u
C105 NREF VMINUS 100n
C117 NCASC 0 47u
C125 NX NHI 470p
C138 OUT FB 22p
C140 VPLUS 0 100n
C141 VMINUS 0 100n
C142 VPLUS 0 100u
C143 VMINUS 0 100u
D102 NREF NREFM D1N4148
D103 NREFM VMINUS D1N4148
JQ110 D1N G1 S1 LSK489X
JQ111 D2N G2 S2 LSK489X
Q106 SRC NREF NTE NSS2N5551
Q118 NHI NCASC D1N NSS2N5551
Q119 NMIRI NCASC D2N NSS2N5551
Q122A NMIRI NMIRI NME1 LS350
Q122B NHI NMIRI NME2 LS350
Q123 NX NHI NVE PSS2N5401
Q126 NY NREF NVLE NSS2N5551
Q128 NX NBB NY NSS2N5551
Q133 VPLUS NBN NEN NMJE15032
Q134 VMINUS NBP NEP PMJE15033
R101 0 NREF 6.81k
R107 NTE VMINUS 137
R108 IN G1 100
R109 FB G2 100
R112 S1 SRC 100
R113 S2 SRC 100
R114 IN 0 1MEG
R115 VPLUS NCASC 4.99k
R116 NCASC 0 10.0k
R120 VPLUS NME1 220
R121 VPLUS NME2 220
R124 VPLUS NVE 91
R127 NVLE VMINUS 91
R129 NX NBB 1.69k
R130 NBB NY 1.00k
R131 NX NBN 10
R132 NY NBP 10
R135 NEN OUT 22
R136 NEP OUT 22
R137 OUT FB 1.50k
R139 FB RG 698
.ends GAINBLOCK
